US06444709B1
3-Methyl-5-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-ylselenyl)pent-2-en-4-ynoic acid
Lithium hydroxide (500 mg) is added to a solution of ethyl 3-methyl-5-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ylselenyl)pent-2-en-4-ynoate (500 mg, 1.24 mmol) in 10 ml of THF. 2 ml of a water/methanol mixture (1/1) are added. The reaction medium is refluxed for 8 h. It is then poured into an ethyl ether/water mixture, acidified to pH 1 with concentrated hydrochloric acid solution and extracted with ethyl ether. After separation of the phases by settling, the organic phase is washed twice with water, dried over anhydrous magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C.

reactant | Lithium hydroxide | 500 mg | [OH-].[Li+]
reactant | ethyl 3-methyl-5-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ylselenyl)pent-2-en-4-ynoate | 1.24 mmol, 500 mg | CC(=CC(=O)OCC)C#C[Se]C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C22H28O2Se
reactant | water methanol | 2 ml | O.CO
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl ether water | C(C)OCC.O
product | 3-Methyl-5-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-ylselenyl)pent-2-en-4-ynoic acid | CC(=CC(=O)O)C#C[Se]C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C20H24O2Se
